US04122175
The condensation of 0.1 mol of 1-benzyl-2,3-dihydrobenzimidazol-2-one and 0.1 mol of 2-chloromethyl-4-benzyl-morpholine is carried out in accordance with the procedure of Example 1. 20 g of 4-benzyl-2-(1-benzyl-2,3-dihydro-benzimidazol-2-on-3-yl-methyl)-morpholine hydrochloride are obtained, m.p. 196° C.

reactant | 1-benzyl-2,3-dihydrobenzimidazol-2-one | 0.1 mol | C(C1=CC=CC=C1)N1C(NC2=C1C=CC=C2)=O | C14H12N2O
reactant | 2-chloromethyl-4-benzyl-morpholine | 0.1 mol | ClCC1CN(CCO1)CC1=CC=CC=C1 | C12H16ClNO
product | 4-benzyl-2-(1-benzyl-2,3-dihydro-benzimidazol-2-on-3-yl-methyl)-morpholine hydrochloride | 20 g | Cl.C(C1=CC=CC=C1)N1CC(OCC1)CN1C(N(C2=C1C=CC=C2)CC2=CC=CC=C2)=O | InChI=1S/C26H27N3O2.ClH/c30-26-28(18-22-11-5-2-6-12-22)24-13-7-8-14-25(24)29(26)20-23-19-27(15-16-31-23)17-21-9-3-1-4-10-21;/h1-14,23H,15-20H2;1H
